US04638009
4'-Isopropyl-2-methyl-3-pyrrolidinopropiophenone
To a solution of 10.00 g of 4'-isopropylpropiophenone in 80 ml of ethyl acetate were added 2.00 g of pyrrolidine and 2.50 g of paraformaldehyde. The mixture was acidified by the addition of gaseous hydrogen chloride and refluxed for 4 hours.

reactant | 4'-isopropylpropiophenone | 10.00 g | C(C)(C)C1=CC=C(C=C1)C(CC)=O | C12H16O
reactant | pyrrolidine | 2.00 g | N1CCCC1 | C4H9N
reactant | paraformaldehyde | 2.50 g | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 4'-Isopropyl-2-methyl-3-pyrrolidinopropiophenone | C(C)(C)C1=CC=C(C=C1)C(C(CN1CCCC1)C)=O | C17H25NO
